US07348359B2
A solution of 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-acrylic acid methyl ester (288 mg, 0.71 mmol) in MeOH (5 ml) and 1N NaOH (5 ml) was heated to 40° C. for 2 h. The reaction was cooled, then brought to pH 7.5 with solid ammonium chloride and extracted with ethyl acetate (2×10 mL). The combined organic layers were then dried over MgSO4 and evaporated to a residue. The residue was purified by silica gel chromatography (10% MeOH in dichloromethane) to give 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-acrylic acid as a white solid (65 mg, 23%). 1H NMR (250 MHz, CDCl3): δ 8.02 (s, 1H), 7.64 (m, 2H), 7.57 (d, 1H, J=7.5),7.39 (m, 1H), 7.17 (d, 1H), J=1.2), 7.04 (d, 1H, J=1.2), 6.35 (d, 1H, J=16.9), 3.37 (m, 1H), 3.26 (q, 2H, J=7.2), 2.88 (m, 1H), 1.26 (s, 3H), 1.23 (s, 6H), 1.20 (s, 3H), 0.72 (t, 3H, J=7.2). MS [EI+] 393 (M+H)+.

reactant | 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-acrylic acid methyl ester | 0.71 mmol, 288 mg | COC(C=CC=1C=CC=2N(C1)C(=CN2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC)=O | C25H30N2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | NaOH | 1N, 5 ml | [OH-].[Na+]
product | 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-acrylic acid | 65 mg, 23% | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CN=C2N1C=C(C=C2)C=CC(=O)O | C24H28N2O3
